US03987047
2-[1,2,4,5-Tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline-3-yl]acetic acid ethyl ester dihydrochloride
15 ml (141 millimols) of ethyl chloroacetate were added dropwise to a boiling solution of 30 gm (141 millimols) of 1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline in 200 ml of benzene and 20 ml of triethylamine. After filtering off the precipitated triethylamine hydrochloride, the solvent was distilled off, and the residual base was converted into the dihydrochloride in ethanol with ethanolic hydrochloric acid.

reactant | ethyl chloroacetate | 141 millimols, 15 ml | ClCC(=O)OCC | C4H7ClO2
reactant | 1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline | 141 millimols, 30 gm | CC1=C2C(=NC=3C=CC=CC13)CCNCC2 | C14H16N2
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
product | 2-[1,2,4,5-Tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline-3-yl]acetic acid ethyl ester dihydrochloride | Cl.Cl.C(C)OC(CN1CCC2=NC=3C=CC=CC3C(=C2CC1)C)=O | InChI=1S/C18H22N2O2.2ClH/c1-3-22-18(21)12-20-10-8-15-13(2)14-6-4-5-7-16(14)19-17(15)9-11-20;;/h4-7H,3,8-12H2,1-2H3;2*1H
